US06518264B2
On carrying out the operation according to the procedure of Example 32 starting with 1.4 g of 1-benzhydryl-3-[(4-methoxyphenyl)(methylsulfonyl)methylene]azetidine, 10 cm3 of a 1 M boron tribromide solution and 100 cm3 of dichloromethane, the residue obtained is purified by chromatography on a silica gel column (particle size 0.04-0.06 mm, diameter 3.5 cm, height 24 cm) at a nitrogen pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (50/50 by volume) as eluents and collecting 25 cm3 fractions. Fractions 21 to 37 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The solid obtained is crystallized from a mixture of 30 cm3 of ethyl ether. 0.6 g of 1-benzhydryl-3-[(4-hydroxyphenyl)(methylsulfonyl)methylene]azetidine is obtained melting at 211° C. [NMR spectrum in DMSO-d6, T=300K, δ in ppm (300 MHz): 2.90 (3H, s, SCH3), 3.80 (2H, s, NCH2), 4.20 (2H, s, NCH2), 4.75 (1H, s, NCH), 6.80 (2H, d, J=7 Hz, 2CH arom.), between 7.10 and 7.35 (8H, m, 8CH arom.), 7.48 (4H, d, J=7 Hz, 4CH arom.), 9.80 (1H, s, OH)].

reactant | 1-benzhydryl-3-[(4-methoxyphenyl)(methylsulfonyl)methylene]azetidine | 1.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=C(S(=O)(=O)C)C1=CC=C(C=C1)OC | C25H25NO3S
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | 1-benzhydryl-3-[(4-hydroxyphenyl)(methylsulfonyl)methylene]azetidine | 0.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=C(S(=O)(=O)C)C1=CC=C(C=C1)O | C24H23NO3S
